US07323472B2
To the solution of N-[8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl]-methanesulfonamide (92 mg, 0.2 mmol) in anhydrous DMF (2 mL) was added NaH (80 mg of 60% dispersion in mineral oil, 2 mmol, 10 eq) and the reaction mixture was stirred for 30 minutes at 23°. Iodomethane (280 mg, 2 mmol, 10 eq) was added and the reaction mixture was stirred 1 h at 23°. Saturated aq NH4Cl (5 mL) was added and the reaction mixture was extracted with EtOAc (2×20 mL). Organic layers were combined, washed with satd aq NaCl, dried (MgSO4), filtered and solvent was evaporated. The yellow residue was then purified by Flash chromatography to give 80 mg of pure N-[8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pynmidin-2-yl]-N-methyl-methanesulfonamide.

reactant | N-[8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl]-methanesulfonamide | 0.2 mmol, 92 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)NS(=O)(=O)C)=O | C21H15F3N4O3S
reactant | NaH | 2 mmol, 80 mg, 10 eq | [H-].[Na+]
reactant | Iodomethane | 2 mmol, 280 mg, 10 eq | IC | CH3I
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pynmidin-2-yl]-N-methyl-methanesulfonamide | 80 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)N(S(=O)(=O)C)C)=O | C22H17F3N4O3S
